US06500863B1
(N-cyclopentyl)-2,6 dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (1.6 g, 5.5 mmol), cyclopentylamine (0.54 mL, 5.5 mmol) and triethylamine (1.1 mL, 7.8 mmol) were reacted to form the desired product (1.1 g, 59%). LC-MS m/z 339(M+).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 5.5 mmol, 1.6 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | cyclopentylamine | 5.5 mmol, 0.54 mL | C1(CCCC1)N | C5H11N
reactant | triethylamine | 7.8 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
product | (N-cyclopentyl)-2,6 dichloro-3-nitrobenzenesulfonamide | 1.1 g, 59% | C1(CCCC1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C11H12Cl2N2O4S
